US06329381B1
6-Amino-9-benzyl-8-hydroxy-2-propoxypurine
6-Amino-9-benzyl-8-methoxy-2-propoxypurine (75 mg, 0.24 mmol) in concentrated hydrochloric acid (15 ml) was stirred for 3 hours at room temperature. The reaction mixture was made basic with 28% aqueous ammonia, and the resulting crystals were filtered and washed with water to give the subject compound (59 mg, yield 83%).

reactant | 6-Amino-9-benzyl-8-methoxy-2-propoxypurine | 0.24 mmol, 75 mg | NC1=C2N=C(N(C2=NC(=N1)OCCC)CC1=CC=CC=C1)OC | C16H19N5O2
reactant | ammonia | N | H3N
solvent | hydrochloric acid | 15 ml | Cl | ClH
product | 6-Amino-9-benzyl-8-hydroxy-2-propoxypurine | 59 mg, yield 83% | NC1=C2N=C(N(C2=NC(=N1)OCCC)CC1=CC=CC=C1)O | C15H17N5O2
